US07399775B2
2,5-Dichloro-4-[(2,5-difluorophenyl)-hydroxymethyl]pyridine
To a tetrahydrofuran solution (14 ml) of diisopropylamine (1.4 ml, 10 mmol) was added n-butyl lithium (6.3 ml, 1.59M hexane solution) at −78° C. After stirring for 10 minutes, 2,5-dichloropyridine (1.48 g, 10 mmol) was added. Thirty minutes later, 2,5-difluorobenzaldehyde (1.09 ml, 10 mmol) was added to the mixture. The resulting mixture was warmed gradually to 0° C. and stirring was conducted for further 10 minutes. An aqueous solution of ammonium chloride was added and the mixture was diluted with ethyl acetate (80 ml). The organic layer was separated, washed with brine and dried. After filtration, the filtrate was concentrated under reduced pressure. The precipitate thus obtained was triturated with ethanol to yield the title compound (1.93 g, 67%).

reactant | diisopropylamine | 10 mmol, 1.4 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.59M, 6.3 ml | C(CCC)[Li]
reactant | 2,5-dichloropyridine | 10 mmol, 1.48 g | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | 2,5-difluorobenzaldehyde | 10 mmol, 1.09 ml | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
product | 2,5-Dichloro-4-[(2,5-difluorophenyl)-hydroxymethyl]pyridine | 1.93 g, 67% | ClC1=NC=C(C(=C1)C(O)C1=C(C=CC(=C1)F)F)Cl | C12H7Cl2F2NO
